US05225402
To a solution of p-anisidine (0.11 g) in chloroform (5 ml) is added triethylamine (0.15 g) and thereto is added with stirring a solution of 4-(3,4-dihydrocarbostyril-1-yl)benzoic acid chloride obtained above in chloroform (2 ml) under ice cooling. The mixture is stirred at room temperature overnight. Water is added to the reaction mixture and the mixture is extracted with dichloromethane, washed with water and dried with magnesium sulfate. The solvent is distilled off under reduced pressure and the resulting residue is crystallized from diethyl ether and further recrystallized from ethanol-/diethyl ether/n-hexane to give 1-[4-(4-methoxyanilinocarbonyl)phenyl]-3,4-dihydrocarbostyril (240 mg) as white powder, m.p.: 254°-255° C.

reactant | p-anisidine | 0.11 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
reactant | 4-(3,4-dihydrocarbostyril-1-yl)benzoic acid chloride | N1(C(=O)CCC2=CC=CC=C12)C1=CC=C(C(=O)Cl)C=C1 | C16H12ClNO2
reactant | Water | O | H2O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[4-(4-methoxyanilinocarbonyl)phenyl]-3,4-dihydrocarbostyril | 240 mg | COC1=CC=C(NC(=O)C2=CC=C(C=C2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C23H20N2O3
